US05977139
Combine 4-carboethoxymethylpiperazine (100 g 580 mmol) and dichloromethane (750 mL). Cool in and ice-methanol bath. Add a solution of di-t-butyl dicarbonate (131 g, 600 mmol) in dichloromethane (250 mL). After 18 hours, evaporate in vacuo to obtain a residue. Divide the residue into three portions and chromatograph on silica gel eluting with 1/1 ethyl acetate/dichloromethane to give the product as the first eluting material. Evaporate the product containing fractions and recyrstallize from ethyl acetate/hexane to give 1-t-butoxycarbonyl-4-carboethoxymethylpiperazine as a solid, mp: 67-69° C. IR (KBr) nmax 2980, 1748, 1679, 1461, 1423, 1366, 1296, 1251, 1214, 1188, 1170, 1131, 1035 cm-1; 1H NMR (CDCl3) ppm 4.19 (q, 2 H, J=7.1 Hz), 3.49 (t, 4 H, J=4.7 Hz), 3.23 (s, 2 H), 2.53 (t, 4 H, J=4.9 Hz), 1.46 (s, 9 H), 1.28 (t, 3 H, J=7.1 Hz); 13C NMR (CDCl3) ppm 170.06, 154.64, 79.68, 60.68, 59.39, 52.65, 28.39, 14.20; MS (CI/NH3) m/z 273 (M+l)+.

reactant | 4-carboethoxymethylpiperazine | 580 mmol, 100 g | C(=O)(OCC)CN1CCNCC1 | C8H16N2O2
reactant | di-t-butyl dicarbonate | 600 mmol, 131 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 750 mL | ClCCl | CH2Cl2
product | 1-t-butoxycarbonyl-4-carboethoxymethylpiperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(=O)OCC | C13H24N2O4
